US05405829
ii) 3-Methoxycarbonyl-5-difluoromethoxy-1-methylpyrazole
67.6 g (0.43 mol) 3-Methoxycarbonyl-5-hydroxy-1-methylpyrazole and 299.2 g (2.17 mol) potassium carbonate were dissolved in 1500 ml dimethylformamide and warmed to 70° C. At this temperature, chlorodifluoromethane was passed through for 2 hours and then stirred for 1.5 hours at 80° C. The reaction mixture was added to water and shaken 6 times with ethyl acetate. The combined organic phases were washed with saturated sodium chloride and dried over magnesium sulfate. The reaction solution was concentrated.

reactant | 3-Methoxycarbonyl-5-hydroxy-1-methylpyrazole | 0.43 mol, 67.6 g | COC(=O)C1=NN(C(=C1)O)C | C6H8N2O3
reactant | potassium carbonate | 2.17 mol, 299.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | water | O | H2O
solvent | dimethylformamide | 1500 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Methoxycarbonyl-5-difluoromethoxy-1-methylpyrazole | COC(=O)C1=NN(C(=C1)OC(F)F)C | C7H8F2N2O3
